US09193716B2
Step A: Ethyl 3-(3-(4-octylphenyl)ureido)propanoate
To 4-n-octylaniline (0.1 g; 0.49 mmol) ethyl 3-isocyanatopropionate (0.08 g; 0.54 mmol) was added at room temperature. The resulting mixture was diluted to 1 ml with CH2Cl2, refluxed for 30 min and evaporated to dryness. The residue was treated with Et2O (5 ml) and the solid formed was filtered off and dried to give the title compound (0.15 g; 87%), as colourless crystals. 1H-NMR (CDCl3) 7.22-7.07 (m, 4H); 6.34 (broad s, 1H); 5.34 (m, 1H); 4.15-4.07 (m, 2H); 3.54-3.46 (m, 2H); 2.73 (m, 4H); 2.57-2.51 (m, 4H); 1.58 (m, 2H); 1.27-1.19 (m, 13H); 0.86 (m, 3H).

reactant | 4-n-octylaniline | 0.49 mmol, 0.1 g | C(CCCCCCC)C1=CC=C(N)C=C1 | C14H23N
reactant | ethyl 3-isocyanatopropionate | 0.54 mmol, 0.08 g | N(=C=O)CCC(=O)OCC | C6H9NO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Ethyl 3-(3-(4-octylphenyl)ureido)propanoate | 0.15 g, 87% | C(CCCCCCC)C1=CC=C(C=C1)NC(NCCC(=O)OCC)=O | C20H32N2O3
